US07638521B2
6 cm3 of thionyl chloride are added to 0.9 g (3.08 mmol) of 3-carboxy-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole at a temperature in the region of 20° C. under an argon atmosphere. After stirring under reflux for 2 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), triturated twice successively with 30 cm3 of dichloromethane and then concentrated to dryness under reduced pressure (2.7 kPa), giving 0.92 g of 3-chlorocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride in the form of a yellow powder, which is used directly in the following step.

reactant | thionyl chloride | 6 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole | 3.08 mmol, 0.9 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C=1C2=C(N=CN1)N(C=C2)C | C16H12N4O2
product | 3-chlorocarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole hydrochloride | 0.92 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1C2=C(N=CN1)N(C=C2)C | InChI=1S/C16H11ClN4O.ClH/c1-20-7-6-11-15(20)18-9-19-16(11)21-8-12(14(17)22)10-4-2-3-5-13(10)21;/h2-9H,1H3;1H
